US05821239
4-[[(Dimethylamino)methylene]amino]-3-pyridinol methylcarbamate
To a hot suspension of 4-[[(dimethylamino)methylene]amino]-3-pyridinol (7.0 g) in dry tetrahydrofuran (THF) were added sodium hydride (168 mg) and methyl isocyanate (2.6 ml). The reaction mixture was stirred at room temperature overnight, cooled in an ice-methanol bath and filtered. The solid was washed with diethyl ether and distributed between methylene chloride (250 ml) and saturated ammonium chloride (30 ml) and, extracted twice more with methylene chloride (200 ml). The solution was dried (MgSO4) and concentrated and the solid was recrystallized from ethyl acetate and dried under high vacuum and refluxing ethanol to yield 6.18 g of crystals, m.p. 137°-139° C.

reactant | 4-[[(dimethylamino)methylene]amino]-3-pyridinol | 7.0 g | CN(C)C=NC1=C(C=NC=C1)O | C8H11N3O
reactant | sodium hydride | 168 mg | [H-].[Na+]
reactant | methyl isocyanate | 2.6 ml | CN=C=O | C2H3NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[[(Dimethylamino)methylene]amino]-3-pyridinol methylcarbamate | 6.18 g | CNC(=O)OC=1C=NC=CC1N=CN(C)C | C10H14N4O2
